US08445499B2
Step 2: tert-butyl 1′-(6-cyanopyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate
The tert-butyl 1′-[4-(methylsulfonyl)phenyl]-4,4′-bipiperidine-1-carboxylate (500 mg, 1.3 mmol), palladium(II) acetate (6 mg, 0.026 mmol),N,N,N′,N′-tetramethylethylenediamine (0.15 mL, 0.26 mmol), 1,5-bis(dipenylphosphino)pentane, potassium cyanide (93 mg, 1.43 mmol) were add in a seal bottle with 13 mL anhydrous toluene. The mixture was degassed by N2 and closed and heated to 160° C. overnight (16 h). The reaction was cooled down to r.t. and diluted with ethyl acetate 50 mL, filtered through celite, and concentrated on rotavapor. The crude material was purified by silica gel flash chromatography with 30% acetone: hexane to yield the title compound.

reactant | tert-butyl 1′-[4-(methylsulfonyl)phenyl]-4,4′-bipiperidine-1-carboxylate | 1.3 mmol, 500 mg | CS(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C22H34N2O4S
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.26 mmol, 0.15 mL | CN(CCN(C)C)C | C6H16N2
reactant | 1,5-bis(dipenylphosphino)pentane | C1(=CC=CC=C1)P(CCCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H30P2
reactant | potassium cyanide | 1.43 mmol, 93 mg | [C-]#N.[K+]
catalyst | palladium(II) acetate | 0.026 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 1′-(6-cyanopyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate | C(#N)C1=CN=CC(=N1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H29N5O2
